### PR TITLE
[Merged by Bors] - refactor: prove `lintegral_eq_zero_iff'` without monotone convergence

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
Currently `lintegral_eq_zero_iff'` is proved using a two-function variant of Markov's inequality, which in turn requires the additive property of Lebesgue integrals (`lintegral_add_left`), which in turn requires the monotone convergence theorem. This was causing some oddities in #23860, where a number of imports in other files had to be bumped because they used `lintegral_eq_zero_iff`.

It is however possible to prove `lintegral_eq_zero_iff'` with just the classical Markov's inequality, without additionally relying on monotone convergence. This PR does this and moves the six affected lemmas _before_ monotone convergence.

### CODE REVIEW

**Comment by sgouezel** [comment]
I'm not sure I prefer this version, where the different versions of Markov inequality (for one or two functions) are scattered around two different places. If you need a direct early proof of `lintegral_eq_zero_iff'` to streamline imports, I'd rather go through the direct proof you gave on Zulip (as cleaned up by Rémy), with a comment that it uses implicitely Markov inequality but that you give a direct proof for the sake of imports. Would that make sense to you?

**Comment by Parcly-Taxel** [comment]
> I'm not sure I prefer this version, where the different versions of Markov inequality (for one or two functions) are scattered around two different places. If you need a direct early proof of `lintegral_eq_zero_iff'` to streamline imports, I'd rather go through the direct proof you gave on Zulip (as cleaned up by Rémy), with a comment that it uses implicitely Markov inequality but that you give a direct proof for the sake of imports. Would that make sense to you?

OK, done.

File: Mathlib/MeasureTheory/Integral/Lebesgue/Basic.lean [hunk 1]
```diff
@@ -779,14 +827,16 @@ theorem lintegral_add_mul_meas_add_le_le_lintegral {f g : α → ℝ≥0∞} (hl
   simp only [indicator_apply]; split_ifs with hx₂
   exacts [hx₂, (add_zero _).trans_le <| (hφ_le x).trans hx₁]
 
-/-- **Markov's inequality** also known as **Chebyshev's first inequality**. -/
+/-- **Markov's inequality**, multiplication form for `AEMeasurable` functions. -/
```
Comment (urkud) [inline Mathlib/MeasureTheory/Integral/Lebesgue/Basic.lean:830]: Please don't drop Chebyshev's name here. He was Markov's teacher and he proved it first (see Wikipedia).

Comment (Parcly-Taxel) [reply Mathlib/MeasureTheory/Integral/Lebesgue/Basic.lean]: Done.

File: Mathlib/MeasureTheory/Integral/Lebesgue/Basic.lean [hunk 2]
```diff
@@ -272,6 +272,54 @@ theorem setLIntegral_congr_fun {f g : α → ℝ≥0∞} {s : Set α} (hs : Meas
   rw [EventuallyEq]
   rwa [ae_restrict_iff' hs]
 
+section
+
+@[simp]
+theorem lintegral_eq_zero_iff' {f : α → ℝ≥0∞} (hf : AEMeasurable f μ) :
+    ∫⁻ a, f a ∂μ = 0 ↔ f =ᵐ[μ] 0 := by
+  refine ⟨fun h ↦ ?_, fun h ↦ (lintegral_congr_ae h).trans lintegral_zero⟩
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/Lebesgue/Basic.lean:280]: Could you add a comment to the proof saying that this proof implicitely uses Markov inequality, but that for import reasons you are instead doing it by hand?

File: Mathlib/MeasureTheory/Integral/Lebesgue/Basic.lean [hunk 3]
```diff
@@ -779,14 +827,18 @@ theorem lintegral_add_mul_meas_add_le_le_lintegral {f g : α → ℝ≥0∞} (hl
...
 
-/-- **Markov's inequality** also known as **Chebyshev's first inequality**. -/
+/-- **Markov's inequality** aka **Chebyshev's first inequality**.
+Multiplication form for `AEMeasurable` functions. -/
 theorem mul_meas_ge_le_lintegral₀ {f : α → ℝ≥0∞} (hf : AEMeasurable f μ) (ε : ℝ≥0∞) :
-    ε * μ { x | ε ≤ f x } ≤ ∫⁻ a, f a ∂μ := by
-  simpa only [lintegral_zero, zero_add] using
-    lintegral_add_mul_meas_add_le_le_lintegral (ae_of_all _ fun x => zero_le (f x)) hf ε
+    ε * μ { x | ε ≤ f x } ≤ ∫⁻ a, f a ∂μ :=
+  calc
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/Lebesgue/Basic.lean:834]: Not sure why you want to switch to a calc block instead of the shorter current proof. But having the statement with `≤` and the proof with `≥` looks really confusing.

File: Mathlib/MeasureTheory/Integral/Lebesgue/Basic.lean [hunk 4]
```diff
@@ -779,14 +827,18 @@ theorem lintegral_add_mul_meas_add_le_le_lintegral {f g : α → ℝ≥0∞} (hl
...
+    _ ≥ ∫⁻ a in {x | ε ≤ f x}, f a ∂μ := setLIntegral_le_lintegral _ _
+    _ ≥ ∫⁻ _ in {x | ε ≤ f x}, ε ∂μ :=
+      setLIntegral_mono_ae hf.restrict (ae_of_all μ fun _ ↦ id)
+    _ = _ := setLIntegral_const _ _
 
-/-- **Markov's inequality** also known as **Chebyshev's first inequality**. For a version assuming
-`AEMeasurable`, see `mul_meas_ge_le_lintegral₀`. -/
+/-- **Markov's inequality** aka **Chebyshev's first inequality**.
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/Lebesgue/Basic.lean:840]: The previous docstring was strictly better, as it gave a pointer to the aemeasurable version.

File: Mathlib/MeasureTheory/Integral/Lebesgue/Basic.lean (hunk 2 above)
Comment (Parcly-Taxel) [reply Mathlib/MeasureTheory/Integral/Lebesgue/Basic.lean:282]: All done.

File: Mathlib/MeasureTheory/Integral/Lebesgue/Basic.lean [hunk 5]
```diff
@@ -272,6 +272,55 @@ theorem setLIntegral_congr_fun {f g : α → ℝ≥0∞} {s : Set α} (hs : Meas
   rw [EventuallyEq]
   rwa [ae_restrict_iff' hs]
 
+section
+
+/-- The Lebesgue integral is zero iff the function is a.e. zero. The proof implicitly uses
+Markov's inequality, but it has been inlined for the sake of imports. -/
+@[simp]
+theorem lintegral_eq_zero_iff' {f : α → ℝ≥0∞} (hf : AEMeasurable f μ) :
+    ∫⁻ a, f a ∂μ = 0 ↔ f =ᵐ[μ] 0 := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/Lebesgue/Basic.lean:281]:
```suggestion
/-- The Lebesgue integral is zero iff the function is a.e. zero. -/
@[simp]
theorem lintegral_eq_zero_iff' {f : α → ℝ≥0∞} (hf : AEMeasurable f μ) :
    ∫⁻ a, f a ∂μ = 0 ↔ f =ᵐ[μ] 0 := by
  /- The proof implicitly uses Markov's inequality, but it has been inlined for the sake of imports. -/
```
The comment about the proof should not be in the tooltip docstring for the theorem: people using the theorem don't care how it is proved.

**Comment by sgouezel** [comment]
bors r+
Thanks!
